US06197729B1
a) 4′-methoxy-2,2,2-trifluoroacetophenone
At −60° C., a solution of 10.5 g of 4-methoxyphenylmagnesium bromide in 50 ml of THF was added dropwise over a period of 1 hour to a solution of 7.2 g of methyl trifluoroacetate in 50 ml of ether. Stirring was then continued at −20° C. for 2 hours and at 0° C. for a further hour. The reaction solution was mixed with 25 ml of 2N hydrochloric acid and extracted with ethyl acetate. The extract was dried and concentrated. The residue was distilled under reduced pressure (b.p. 41° C., 4.5×10−1 torr), to give the title product as a colourless oil.

reactant | 4-methoxyphenylmagnesium bromide | 10.5 g | COC1=CC=C(C=C1)[Mg]Br
reactant | methyl trifluoroacetate | 7.2 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | hydrochloric acid | 2N, 25 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4′-methoxy-2,2,2-trifluoroacetophenone | COC1=CC=C(C=C1)C(C(F)(F)F)=O | C9H7F3O2
